US06599925B2
Following the procedure described in Step 1 of Example 11, 2-{[1-methyl-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetonitrile (0.874 g, 2.20 mmol) was reduced with sodium borohydride (0.495 g, 13.1 mmol) in ethanol (25 mL). 2-({6-[3-(1-hydroxypentyl)-1-benzofuran-2-yl]-1-methyl-2-naphthyl}oxy)acetonitrile was obtained as a yellow gum (0.838 g,). 1HNMR (300 MHz, DMSO-d6): δ8.3 (s, 1H), 8.15 (d, 1H, J=9.2 Hz), 8.0 (t, 1H, J=8.5 Hz), 7.9 (t, 1H, J=7.7 Hz), 7.55 (q, 3H, J=8.2 Hz), 7.25-7.35 (br, 1H), 5.45 (d, 1H, J=5.4 Hz), 5.35 (s, 2H), 5.1-5.2 (br, 1H), 2.55 (s, 3H), 1.8-2.0 (br, 2H), 1.2-1.3 (br, 2H), 1.35 (t, 2H, J=7.3 Hz), and 0.8 ppm (t, 3H, J=7.3 Hz).

reactant | 2-{[1-methyl-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetonitrile | 2.20 mmol, 0.874 g | CC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1C(CCCC)=O)C=CC=C2)OCC#N | C26H23NO3
reactant | sodium borohydride | 13.1 mmol, 0.495 g | [BH4-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-({6-[3-(1-hydroxypentyl)-1-benzofuran-2-yl]-1-methyl-2-naphthyl}oxy)acetonitrile | OC(CCCC)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=C(C1=CC2)C)OCC#N | C26H25NO3
